US08859773B2
Step 2: 5-bromo-7-(trifluoromethyl)-1H-indazole
To a solution of 4-bromo-2-methyl-6-(trifluoromethyl)aniline (3.3 g, 13 mmol) in toluene (65 mL) and glacial acetic acid (11.2 mL, 195 mmol) was added potassium acetate (10.2 g, 104 mmol) portionwise. After 15 minutes a large amount of precipitate had formed, hindering stirring of the reaction. The reaction was diluted with acetic acid (10 mL). Isoamyl nitrite (1.92 mL, 14.3 mmol) was then added dropwise and the reaction was stirred at room temperature for 3 hours. Additional isoamyl nitrite (0.5 mL, 3.7 mmol) was added and the reaction was left stirring for 15 hours. The reaction was diluted with water (100 mL) and stirred for 1.5 hours. The solution was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The layers were separated and the organics were washed with brine, dried over magnesium sulfate, filtered, and concentrated. Purification by flash column chromatography (5-50% ethyl acetate/heptanes) gave the title compound (1.78 g, 52%) as a yellow powder. −ESI (M−H+1) 264.9; 1H NMR (400 MHz, CDCl3, δ): 8.13 (s, 1H), 8.09-8.11 (m, 1H), 7.76 (dd, J=1.66, 0.88 Hz, 1H).

reactant | 4-bromo-2-methyl-6-(trifluoromethyl)aniline | 13 mmol, 3.3 g | BrC1=CC(=C(N)C(=C1)C(F)(F)F)C | C8H7BrF3N
reactant | potassium acetate | 104 mmol, 10.2 g | C(C)(=O)[O-].[K+]
reactant | Isoamyl nitrite | 14.3 mmol, 1.92 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | isoamyl nitrite | 3.7 mmol, 0.5 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | water | 100 mL | O | H2O
solvent | acetic acid | 195 mmol, 11.2 mL | C(C)(=O)O | C2H4O2
product | 5-bromo-7-(trifluoromethyl)-1H-indazole | 1.78 g, 52% | BrC=1C=C2C=NNC2=C(C1)C(F)(F)F | C8H4BrF3N2
